US04537895
Preparation of 8-ethoxycarbonylamino-4-phenyl-2-methyl-1,2,3,4-tetrahydro-isoquinoline
To a solution of 5.5 g 0.023 mole of 8-amino-4-phenyl-2-methyl-1,2,3,4-tetrahydro-isoquinoline and 50 ml of anhydrous benzene a solution of 3.4 g (0.031 mole) of ethyl chloroformate and 30 ml of anhydrous benzene is added. The reaction mixture is heated to boiling for 3 hours, the benzene is distilled off in vacuo. The residue is dissolved in 5 ml of water, made alkaline with a 30% aqueous sodium hydroxide solution and extracted three times with 50 ml of chloroform each. The chloroform extracts are united, dried over sodium sulfate and evaporated. The residue is washed with some cold ethanol and recrystallized from ethanol. Thus 3.0 g of the title compound are obtained in the form of white crystals. Yield 37.5%. Mp.: 178° C.

reactant | 8-amino-4-phenyl-2-methyl-1,2,3,4-tetrahydro-isoquinoline | 0.023 mole, 5.5 g | NC=1C=CC=C2C(CN(CC12)C)C1=CC=CC=C1 | C16H18N2
reactant | ethyl chloroformate | 0.031 mole, 3.4 g | ClC(=O)OCC | C3H5ClO2
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 8-ethoxycarbonylamino-4-phenyl-2-methyl-1,2,3,4-tetrahydro-isoquinoline | 3.0 g, Yield 37.5% | C(C)OC(=O)NC=1C=CC=C2C(CN(CC12)C)C1=CC=CC=C1 | C19H22N2O2
